US04265894
A solution of 6 g of 1-[(diphenylmethoxy)acetyl]-4-(3-phenyl-2-propenyl) piperazine in 100 ml of anhydrous diethyl ether was added dropwise at room temperature to a mixture of 1 g of lithium aluminum hydride and 150 ml of anhydrous diethyl ether. The mixture was refluxed for one hour and then cooled and decomposed by a mixture of tetrahydrofuran and water. The organic layer was separated off and the solvents were distilled off. The residue was dissolved in diethyl ether. The solution was dried over sodium sulphate, after which maleic acid in diethyl ether was added until the liquid was acidic. The precipitate was filtered off and crystallized from a mixture of methanol and dimethylformamide. The thin layer chromatogram revealed an impurity. The substance was therefore stirred with water of 50° C. and then filtered off and dried in vacuo at 60° C. 1-[2-(Diphenylmethoxy)ethyl]-4-(3-phenyl-2-propenyl) piperazine maleate (1:1) was obtained. Melting point 191° C.

reactant | 1-[(diphenylmethoxy)acetyl]-4-(3-phenyl-2-propenyl) piperazine | 6 g | C1(=CC=CC=C1)C(OCC(=O)N1CCN(CC1)CC=CC1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O2
reactant | lithium aluminum hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1-[2-(Diphenylmethoxy)ethyl]-4-(3-phenyl-2-propenyl) piperazine maleate | C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)C(OCCN1CCN(CC1)CC=CC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H32N2O.C4H4O4/c1-4-11-25(12-5-1)13-10-18-29-19-21-30(22-20-29)23-24-31-28(26-14-6-2-7-15-26)27-16-8-3-9-17-27;5-3(6)1-2-4(7)8/h1-17,28H,18-24H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
